### ISSUE TITLE
Tractatus: add expresses relation and tighten silence

### ISSUE THREAD

**Issue by rjwalters** [rjwalters/lean-genius#10855]
## Problem

`axiom silence : True` doesn't interact with anything — no dependency, no consequences, no typing. The `expresses` relation is used as an anonymous hypothesis in `saying_showing_triviality` but isn't a named concept.

### 1. Define `expresses`

```lean
def expresses (p : Proposition S) (P : Prop) : Prop :=
  ∀ w : World S, p.eval w ↔ P
```

### 2. Restate key theorems using it

- `saying_showing_triviality`: `expresses q P → IsTautology q ∨ IsContradiction q`
- `proposition_seven`: same restatement
- New: `nontrivial_cannot_express_world_independent`: if `Nontrivial p` then `¬ expresses p P` for any world-independent P

### 3. Derive silence as a corollary

Update the docstring to explicitly reference the theorem chain:
- `expresses` defines what it means to "say" P
- `saying_showing_triviality` proves saying collapses to triviality
- `nontrivial_cannot_express_world_independent` proves the boundary
- `silence` marks where the chain ends

### 4. Make saying/showing first-class

The `expresses` relation makes the object/meta distinction visible in types — `expresses p P` connects an object-language proposition to a meta-language Prop.

## Acceptance Criteria

- [ ] `expresses` defined
- [ ] Existing theorems restated using it (backward-compatible aliases for old signatures)
- [ ] New theorem connecting Nontrivial to expresses
- [ ] silence docstring updated to reference the chain
- [ ] Annotation explaining saying/showing as types

## References

- Peer review round 3, sections 1-2
- TLP 4.12-4.1212, 7

**Comment by rjwalters** [comment]
## Curator Enhancement

Curating per user request. The issue is well-formed but is light on implementation detail for a Builder unfamiliar with the file. This comment adds exact insertion points, proof sketches, backward-compatibility strategy, and a test plan.

---

## Technical Context

`TractatusOntology.lean` is 898 lines organized into 11 sections. The key items referenced in this issue are:

| Name | Kind | Line | Current signature |
|------|------|------|-------------------|
| `saying_showing_triviality` | theorem | 706 | `(h : ∀ w : World S, q.eval w ↔ P)` |
| `proposition_seven` | theorem | 779 | same hypothesis `h` — delegates to `saying_showing_triviality` |
| `Nontrivial` | def | 249 | `∃ w₁ w₂ : World S, p.eval w₁ ∧ ¬ p.eval w₂` |
| `nontrivial_expressibility_requires_world_dependence` | theorem | 787 | uses inline `h : ∀ w, q.eval w ↔ P` |
| `axiom silence` | axiom | 815 | `True` — preceded by a 16-line docstring that already narrates the chain |

`Proposition.semEq` (line 850) is already defined as `∀ w, p.eval w ↔ q.eval w` — structurally adjacent to the proposed `expresses` definition. The new definition slots naturally between those two concepts.

---

## Implementation Plan

### Step 1 — Define `expresses` (new, ~line 680)

Insert immediately before the `-- SECTION 10` banner (line 676), inside the `Tractatus` namespace but outside any sub-namespace:

```lean
-- ---------------------------------------------------------------
-- The expresses relation (TLP 4.12, 4.1212)
-- ---------------------------------------------------------------

/-
`expresses p P` captures what it means for an object-language
proposition to "say" a meta-language truth P. The proposition
p expresses P when p's truth value tracks P in every possible
world — they are always equal.

This makes the object/meta distinction visible in types:
  - `p : Proposition S`       — object language
  - `P : Prop`                — meta language
  - `expresses p P : Prop`    — the bridge claim

TLP 4.12: Propositions can represent the whole of reality, but
they cannot represent what they must have in common with reality
in order to be able to represent it.
-/
def expresses (p : Proposition S) (P : Prop) : Prop :=
  ∀ w : World S, p.eval w ↔ P
```

This definition is self-contained (no new imports, no new universe issues) and mirrors `Proposition.semEq` conceptually but crosses the object/meta boundary.

### Step 2 — Restate `saying_showing_triviality` using `expresses`

`saying_showing_triviality` (line 706) currently takes `h : ∀ w : World S, q.eval w ↔ P` directly. Replace with an `expresses`-based statement and keep the old form as an alias:

```lean
/-- Any proposition that expresses a world-independent property
    must be a tautology or a contradiction. -/
theorem saying_showing_triviality' (q : Proposition S) (P : Prop) [Nonempty S]
    (h : expresses q P) :
    IsTautology q ∨ IsContradiction q :=
  saying_showing_triviality q P h   -- delegates to original; h unfolds definitionally
```

The original `saying_showing_triviality` keeps its signature so all downstream callers (including `proposition_seven` and `nontrivial_expressibility_requires_world_dependence`) compile without change. The new name carries the conceptual weight.

Alternatively, Builder can rename the original to `saying_showing_triviality` directly (the hypothesis `h` is definitionally equal; `expresses q P` unfolds to `∀ w, q.eval w ↔ P` so every existing proof that provides a lambda for `h` still type-checks).

### Step 3 — Restate `proposition_seven` using `expresses`

`proposition_seven` (line 779) is already just an alias for `saying_showing_triviality`. Replace the hypothesis:

```lean
theorem proposition_seven (q : Proposition S) (P : Prop) [Nonempty S]
    (h : expresses q P) :
    IsTautology q ∨ IsContradiction q :=
  saying_showing_triviality q P h
```

Because `expresses` is definitionally equal to the old hypothesis type, this is a drop-in replacement. No proof change needed.

### Step 4 — New theorem: `Nontrivial` precludes expressing world-independent content

Insert after `nontrivial_expressibility_requires_world_dependence` (~line 797), before the `silence` docstring:

```lean
/-- A nontrivial proposition cannot express any world-independent
    property. If `p` varies across worlds, there is no `P : Prop`
    such that `expresses p P`. This is the typed form of the
    saying/showing boundary: genuine content cannot be pinned to a
    single meta-proposition. -/
theorem nontrivial_cannot_express_world_independent
    (p : Proposition S) (P : Prop) [Nonempty S]
    (hnt : Nontrivial p) :
    ¬ expresses p P := by
  intro h
  exact nontrivial_expressibility_requires_world_dependence p P hnt h
```

This is a one-liner proof (delegates to the existing theorem). The value is conceptual: `¬ expresses p P` is now a typed statement in the signature, not buried in hypothesis form.

### Step 5 — Update the `axiom silence` docstring

The existing docstring (lines 798–814) already references the theorem chain, but uses informal names. Update the bullet list to reference the new `expresses`-based names:

```
- `expresses p P` — the typed bridge between object and meta language (TLP 4.12)
- `saying_showing_triviality` — any expression of world-independent content collapses
- `nontrivial_cannot_express_world_independent` — Nontrivial propositions cannot express P
- `proposition_seven` — TLP 7 restated via `expresses`
- `silence` — marks where the chain ends; the ladder's top rung
```

### Step 6 — Optional annotation note in gallery

The existing annotations in `src/data/proofs/tractatus-ontology/` (likely `annotations.json` or similar) should gain a note that `expresses` makes the object/meta boundary a type-level concept rather than a comment-level one.

---

## Proof Sketch: Why All Steps Are Trivial

`expresses p P` is definitionally equal to `∀ w : World S, p.eval w ↔ P` (it is `def`, not `abbrev`, but Lean will unfold it during elaboration). This means:

- Every existing proof that supplies a lambda `fun w => ...` for the old hypothesis still type-checks unchanged.
- Every `rcases`, `exact`, and `apply` on the old hypothesis type still works.
- No sorry is introduced.
- The new theorem `nontrivial_cannot_express_world_independent` is a one-line `intro; exact` delegating to the already-proved `nontrivial_expressibility_requires_world_dependence`.

The only possible friction: if `expresses` is placed in the `Tractatus` namespace but `Proposition.semEq` is in the `Proposition` sub-namespace, the Builder should ensure `expresses` is accessible at the theorem sites (it is, since those theorems are at `Tractatus` top level).

---

## Affected Files

- `proofs/Proofs/TractatusOntology.lean` — primary change file; all insertions and rewrites here
  - Line 676: insert `expresses` definition (before Section 10 banner)
  - Lines 706–711: restate `saying_showing_triviality` (keep old, add `'` variant, or rename)
  - Lines 779–782: restate `proposition_seven` hypothesis to use `expresses`
  - After line 797: insert `nontrivial_cannot_express_world_independent`
  - Lines 798–814: update `axiom silence` docstring bullet list
- `src/data/proofs/tractatus-ontology/annotations.json` (or equivalent gallery data) — optional annotation about saying/showing as types

---

## Test Plan

- [ ] Manual verification: run `./proofs/scripts/docker-build.sh Proofs.TractatusOntology` and confirm zero errors. The build target already exists.
- [ ] Automated tests: N/A (this is a Lean formalization project; the type-checker is the test). A clean `lake build` is the acceptance criterion.
- [ ] Backward-compatibility check: search for all callers of `saying_showing_triviality` and `proposition_seven` in the repo (`rg "saying_showing_triviality\|proposition_seven" proofs/`). Confirm each still elaborates after the signature change (they should, since `expresses` unfolds definitionally).
- [ ] New theorem compiles: `nontrivial_cannot_express_world_independent` closes with `intro; exact ...` — no sorry.
- [ ] Gallery build: `pnpm build` passes (no gallery data changes required unless annotations are updated).
- [ ] Edge case: verify `expresses` placed before all its callers in file order (Lean is order-sensitive).
